US03982002
12 g. (0.082 mole) of 2-ketoglutaric acid are dissolved in 500 ml. of methanol. The solution is brought to the boil and 22.5 g. (0.0635 mole) of vincamine are added a small amount at a time, with vigorous agitation. When dissolution is complete, the resulting solution is concentrated in a rotary evaporator until its volume is reduced to 200 ml. On cooling, 22 g. of vincamine 2-ketoglutarate are obtained. By adding 500 ml. of ethyl ether to the mother liquors, a further amount of 9.6 g. of the salt are obtained. The total amount of salt obtained is therefore, 29.6 g. (yield 93%). The melting point is 214°-215°C.

reactant | 2-ketoglutaric acid | 0.082 mole | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | vincamine | 0.0635 mole | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
solvent | methanol | CO | CH4O
product | vincamine 2-ketoglutarate | yield 93% | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.O=C(C(=O)[O-])CCC(=O)[O-] | InChI=1S/C21H26N2O3.C5H6O5/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;6-3(5(9)10)1-2-4(7)8/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;1-2H2,(H,7,8)(H,9,10)/p-2/t18-,20+,21+;/m1./s1
